* source I-NAND
M_NAND7_M1         NAND7 N00403 NAND7_ND2 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M14         NAND7_ND7 N01593 0 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M8         NAND7 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M2         NAND7_ND2 N01593 NAND7_ND3 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M3         NAND7 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M4         NAND7 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M11         NAND7 N00403 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M7         NAND7_ND4 N01593 NAND7_ND5 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M9         NAND7 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M6         NAND7_ND3 N01593 NAND7_ND4 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M12         NAND7 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M5         NAND7 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M10         NAND7_ND5 N01593 NAND7_ND6 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M13         NAND7_ND6 N01593 NAND7_ND7 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NEG_M5         NEG N01593 N00403 N00403 CMOSP  
+ L=.25u  
+ W=.93u         
M_NEG_M6         NEG N01593 0 0 CMOSN  
+ L=.43u  
+ W=.43u         
R_R7         NEG N00403  1Meg  
M_NAND2_M5         NAND2 N00403 N00403 N00403 CMOSP  
+ L=.186u  
+ W=.25u         
M_NAND2_M6         NAND2 N00403 NAND2_ND2 0 CMOSN  
+ L=.2u  
+ W=.232u         
M_NAND2_M2         NAND2_ND2 N01593 0 0 CMOSN  
+ L=.2u  
+ W=.232u         
M_NAND2_M4         NAND2 N01593 N00403 N00403 CMOSP  
+ L=.186u  
+ W=.25u         
R_R2         NAND3 N00403  1Meg  
M_NAND8_M16         NAND8 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M5         NAND8 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M11         NAND8 N00403 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M9         NAND8 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M1         NAND8 N00403 NAND8_ND2 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M6         NAND8_ND3 N01593 NAND8_ND4 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M7         NAND8_ND4 N01593 NAND8_ND5 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M12         NAND8 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M2         NAND8_ND2 N01593 NAND8_ND3 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M13         NAND8_ND6 N01593 NAND8_ND7 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M10         NAND8_ND5 N01593 NAND8_ND6 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M3         NAND8 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M14         NAND8_ND7 N01593 NAND8_ND8 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M8         NAND8 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M4         NAND8 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M15         NAND8_ND8 N01593 0 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND3_M2         NAND3_ND2 N01593 NAND3_ND3 0 CMOSN  
+ L=.18u  
+ W=.37u         
M_NAND3_M3         NAND3 N00403 N00403 N00403 CMOSP  
+ L=.25u  
+ W=.26u         
M_NAND3_M6         NAND3_ND3 N01593 0 0 CMOSN  
+ L=.18u  
+ W=.37u         
M_NAND3_M4         NAND3 N01593 N00403 N00403 CMOSP  
+ L=.25u  
+ W=.26u         
M_NAND3_M1         NAND3 N00403 NAND3_ND2 0 CMOSN  
+ L=.18u  
+ W=.37u         
M_NAND3_M5         NAND3 N01593 N00403 N00403 CMOSP  
+ L=.25u  
+ W=.26u         
R_R3         NAND4 N00403  1Meg  
V_V1         N00403 0 3.3
R_R4         NAND5 N00403  1Meg  
M_NAND4_M7         NAND4 N00403 N00403 N00403 CMOSP  
+ L=.33u  
+ W=.25u         
M_NAND4_M8         NAND4 N01593 N00403 N00403 CMOSP  
+ L=.33u  
+ W=.25u         
M_NAND4_M12         NAND4 N01593 N00403 N00403 CMOSP  
+ L=.33u  
+ W=.25u         
M_NAND4_M9         NAND4 N01593 N00403 N00403 CMOSP  
+ L=.33u  
+ W=.25u         
M_NAND4_M1         NAND4 N00403 NAND4_ND2 0 CMOSN  
+ L=.18u  
+ W=.47u         
M_NAND4_M10         NAND4_ND3 N01593 NAND4_ND4 0 CMOSN  
+ L=.18u  
+ W=.47u         
M_NAND4_M3         NAND4_ND2 N01593 NAND4_ND3 0 CMOSN  
+ L=.18u  
+ W=.47u         
M_NAND4_M11         NAND4_ND4 N01593 0 0 CMOSN  
+ L=.18u  
+ W=.47u         
R_R1         NAND2 N00403  1Meg  
V_V2         N01593 0  
+PULSE 0 3.3 2n 10p 10p 300p 
R_R5         NAND7 N00403  1Meg  
M_NAND5_M4         NAND5 N01593 N00403 N00403 CMOSP  
+ L=.41u  
+ W=.44u         
M_NAND5_M9         NAND5 N01593 N00403 N00403 CMOSP  
+ L=.41u  
+ W=.44u         
M_NAND5_M7         NAND5_ND4 N01593 NAND5_ND5 0 CMOSN  
+ L=.18u  
+ W=1.042u         
M_NAND5_M10         NAND5_ND5 N01593 0 0 CMOSN  
+ L=.18u  
+ W=1.042u         
M_NAND5_M5         NAND5 N01593 N00403 N00403 CMOSP  
+ L=.41u  
+ W=.44u         
M_NAND5_M8         NAND5 N01593 N00403 N00403 CMOSP  
+ L=.41u  
+ W=.44u         
M_NAND5_M1         NAND5 N00403 NAND5_ND2 0 CMOSN  
+ L=.18u  
+ W=1.042u         
M_NAND5_M6         NAND5_ND3 N01593 NAND5_ND4 0 CMOSN  
+ L=.18u  
+ W=1.042u         
M_NAND5_M2         NAND5_ND2 N01593 NAND5_ND3 0 CMOSN  
+ L=.18u  
+ W=1.042u         
M_NAND5_M3         NAND5 N00403 N00403 N00403 CMOSP  
+ L=.41u  
+ W=.44u         
R_R6         NAND8 N00403  1Meg  
