* source I-NAND
.EXTERNAL INPUT IN1
.EXTERNAL INPUT IN2
.EXTERNAL INPUT VDD
.EXTERNAL INPUT OUT
.EXTERNAL INPUT GND
M_M1         OUT IN1 N14393 GND MbreakN           
M_M2         N14393 IN2 GND GND MbreakN           
M_M3         OUT IN1 VDD VDD MbreakP           
M_M4         OUT IN2 VDD VDD MbreakP           
