* source I-OPAMPB-01
V_V1         N16153 0 5
M_M12         N14949 N15060 0 0 NMOS  
+ L=9.6u  
+ W=24.8u         
M_M4         N52937 0 N15828 N16153 PMOS  
+ L=4.8u  
+ W=420u         
V_V3         0 VIN-  
+SIN -1.1 .1 10 0 0 0
M_M5         N15242 N15242 N16153 N16153 PMOS  
+ L=9.6u  
+ W=77.6u         
M_M6         N15060 N15060 N15242 N16153 PMOS  
+ L=9.6u  
+ W=101.6u         
M_M7         N15060 N15060 0 0 NMOS  
+ L=9.6u  
+ W=24.8u         
M_M8         N52937 N15242 N14804 0 NMOS  
+ L=1.6u  
+ W=91.2u         
I_I1         TEST 0 DC 0Adc AC 0Aac
+PULSE 0 1m 100m 3p 7p 0 0
M_M3         N15828 N15828 N16153 N16153 PMOS  
+ L=4.8u  
+ W=420u         
V_V2         VIN+ 0  
+SIN 1.1 .1 10 0 0 0
C_C1         TEST 0  5p  TC=0,0 
M_M9         N14804 VIN+ N14949 0 NMOS  
+ L=1.6u  
+ W=91.2u         
M_M10         TEST N15242 N52017 0 NMOS  
+ L=1.6u  
+ W=91.2u         
M_M1         N52256 N15828 N16153 N16153 PMOS  
+ L=4.8u  
+ W=420u         
I_I2         TEST 0 DC 0Adc AC 0Aac
+PULSE 0 .3m 100m 1p 130p 9p 0
M_M11         N52017 VIN- N14949 0 NMOS  
+ L=1.6u  
+ W=91.2u         
M_M2         TEST 0 N52256 N16153 PMOS  
+ L=4.8u  
+ W=420u         
