* source I-TESTCURRENT-001
I_I2         N16014 0 DC 0Adc AC 0Aac
+PULSE 0 .3m 1.5p 1p 130p 9p 0
I_I1         N16014 0 DC 0Adc AC 0Aac
+PULSE 0 1m 1.5p 3p 7p 0 0
R_R2         0 ITEST  1k TC=0,0 
R_R1         N16014 ITEST  1k TC=0,0 
