* source I-TESTCURRENT-002
I_I1         N14389 0 DC 0Adc AC 0Aac
+EXP 0m 1m 1.5p .5p 3.5p 5p
R_R1         N14389 N14398  1k TC=0,0 
R_R2         0 N14398  1k TC=0,0 
